US06727264B1
N-(3-{1-[5-(4-FLUOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure K and Scheme B using 5-chloro-1-(4-fluorophenyl)-1-pentanone and N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 411.2 (M+H)+.

reactant | 5-chloro-1-(4-fluorophenyl)-1-pentanone | ClCCCCC(=O)C1=CC=C(C=C1)F | C11H12ClFO
reactant | N-[3-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
product | N-(3-{1-[5-(4-FLUOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | FC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O)=O | C25H31FN2O2
